US08232278B2
Synthesis of 2,4-diamino-6-chloro-pyrido[3,2-d]pyrimidine
A mixture consisting of 3-amino-6-chloro-pyridine-2-carbonitrile (4.6 g, 30 mmol), chloroformamidine hydrochloride (6.9 g, 60 mmol) and dimethylsulfon (12 g) was heated at 165° C. for 30 minutes. After cooling to room temperature, water (500 ml) was added. The solution was neutralized with a 30% NaOH solution to pH 9-10. The precipitate was filtered off, washed with water, dried over P2O5, resulting in the pure title compound as a yellow solid (4.0 g, yield: 68%) which was characterised as follows:

reactant | 3-amino-6-chloro-pyridine-2-carbonitrile | 30 mmol, 4.6 g | NC=1C(=NC(=CC1)Cl)C#N | C6H4ClN3
reactant | chloroformamidine hydrochloride | 60 mmol, 6.9 g | Cl.ClC(=N)N
reactant | dimethylsulfon | 12 g | CS(=O)(=O)C | C2H6O2S
reactant | NaOH | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2,4-diamino-6-chloro-pyrido[3,2-d]pyrimidine | 4.0 g, yield: 68% | NC=1N=C(C2=C(N1)C=CC(=N2)Cl)N | C7H6ClN5
